US04863904
A solution of 2.0 g of 3-ethoxycarbonyl-4-(1-naphthyl)-3-butenoic acid in 100 ml of acetic acid was hydrogenated over 900 mg of a 10% palladium/charcoal under a hydrogen atmosphere at room temperature. After filtration of the catalyst, the reaction solution was concentrated under reduced pressure to obtain 1.46 g of 3-ethoxycarbonyl-4-(1-naphthyl)butyric acid as a brown oil.

reactant | 3-ethoxycarbonyl-4-(1-naphthyl)-3-butenoic acid | 2.0 g | C(C)OC(=O)C(CC(=O)O)=CC1=CC=CC2=CC=CC=C12 | C17H16O4
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium/charcoal | [Pd] | Pd
product | 3-ethoxycarbonyl-4-(1-naphthyl)butyric acid | 1.46 g | C(C)OC(=O)C(CC(=O)O)CC1=CC=CC2=CC=CC=C12 | C17H18O4
